US08455496B2
The flask was charged with ethyl 4-hydroxy-2-methylbenzofuran-6-carboxylate (I-1c: 6.07 g, 27.6 mmol), 5-chloro-N,N-dimethylpyrazine-2-carboxamide (SM-1: 5.06 g, 27.3 mmol), cesium carbonate (9.78 g, 30 mmol). The solids were dissolved in dimethylformamide (60 mL). The reaction was heated to 90° C. for 3 hours. After the reaction was cooled down to ambient temperature, dimethylformamide was removed in vacuo. The crude reaction mixture was partitioned between ethyl acetate (100 ml) and water (30 mL). The aqueous layer was extracted with ethyl acetate (50 mL). The combined organic layer was washed with water, brine, dried over sodium sulfate, and concentrated. The crude product was purified by column chromatography (silica gel, 30 to 80% gradient of ethyl acetate in heptane) to give desired ethyl 4-(5-(dimethylcarbamoyl)pyrazin-2-yloxy)-2-methylbenzofuran-6-carboxylate (I-1d) as a light brown solid (8.3 g, 95%).

reactant | ethyl 4-hydroxy-2-methylbenzofuran-6-carboxylate | 27.6 mmol, 6.07 g | OC1=CC(=CC2=C1C=C(O2)C)C(=O)OCC | C12H12O4
reactant | 5-chloro-N,N-dimethylpyrazine-2-carboxamide | 27.3 mmol, 5.06 g | ClC=1N=CC(=NC1)C(=O)N(C)C | C7H8ClN3O
reactant | cesium carbonate | 30 mmol, 9.78 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dimethylformamide | 60 mL | CN(C=O)C | C3H7NO
product | ethyl 4-(5-(dimethylcarbamoyl)pyrazin-2-yloxy)-2-methylbenzofuran-6-carboxylate | 8.3 g, 95% | CN(C(=O)C=1N=CC(=NC1)OC1=CC(=CC2=C1C=C(O2)C)C(=O)OCC)C | C19H19N3O5
